US07700786B2
Trichloromethyl chloroformate (0.58 g, 3.0 mmol) was added to a solution of 3-(4-chloro-2-trifluoromethylphenyloxy)-5-methylpyrazole (0.55 g, 2.0 mmol) in ethyl acetate (10 ml) at 0° C., and the mixture was further stirred at an ambient temperature for 30 minutes. Then, the mixture was refluxed under heating for 1 hour. The solvent was distilled off from the reaction mixture and then the reaction mixture was cooled to 0° C. and dissolved in toluene (10 ml). Triethylamine (0.61 g, 6.0 mmol) and tetrahydrofurfurylamine (1.01 g, 10.0 mmol) were added, and while the mixture was allowed to have room temperature gradually, it was stirred for 1 hour. Then, the mixture was refluxed under heating for 2 hours. After completion of the reaction, the reaction mixture was poured into 1N hydrochloric acid (10 ml), and the mixture was extracted with ethyl acetate (10 ml×2). An organic layer was washed with water (10 ml×3), dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/10), to give a colorless viscous substance of N-tetrahydrofurfuryl-3-(4-chloro-2-trifluoromethylphenyloxy)-5-methylpyrazole-1-carboxamide (0.40 g, yield: 48.9%). 1H-NMR (CDCl3, TMS, ppm): δ 1.55-1.66 (m, 1H), 1.84-2.02 (m, 3H), 2.59 (d, J=0.8 Hz, 3H), 3.26-3.37 (m, 1H), 3.54 (ddd, J=3.7, 6.2 and 13.8 Hz, 1H), 3.71-3.90 (m, 2H), 4.00-4.16 (m, 1H), 5.74 (q, J=0.8 Hz, 1H), 7.18 (br s, 1H), 7.25 (d, J=8.7 Hz, 1H), 7.48 (dd, J=2.5 and 8.7 Hz, 1H), 7.64 (d, J=2.5 Hz, 1H).

reactant | Trichloromethyl chloroformate | 3.0 mmol, 0.58 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 3-(4-chloro-2-trifluoromethylphenyloxy)-5-methylpyrazole | 2.0 mmol, 0.55 g | ClC1=CC(=C(C=C1)OC1=NNC(=C1)C)C(F)(F)F | C11H8ClF3N2O
reactant | Triethylamine | 6.0 mmol, 0.61 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofurfurylamine | 10.0 mmol, 1.01 g | C(C1CCCO1)N | C5H11NO
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-tetrahydrofurfuryl-3-(4-chloro-2-trifluoromethylphenyloxy)-5-methylpyrazole-1-carboxamide | 0.40 g, yield: 48.9% | C(C1CCCO1)NC(=O)N1N=C(C=C1C)OC1=C(C=C(C=C1)Cl)C(F)(F)F | C17H17ClF3N3O3
